US09079894B2
To the (1-cyclobutyl piperidin-4-yl) acetic acid (725 mg, 3.52 mmol, obtained in preparation 4) was added phosphoryl chloride (4 mL). The mixture was stirred for 15 minutes and 5-Amino-6-chloro-chroman-8-carboxylic acid hydrazide (500 mg, 2.0 mmol) was added. The reaction mixture was gradually heated to reflux for 30 minutes. The reaction mixture was cooled to room temperature, triturated with hexanes (2×20 mL) and the crude mass was basified with aqueous sodium bicarbonate solution. The basified mixture was extracted with 10% methanol in dichloromethane. The organic layer was dried over anhydrous sodium sulphate and the solvent was removed under reduced pressure and was purified by silica gel column to obtain 6-chloro-8-[5-(1-cyclobutyl piperidin-4-ylmethyl)-[1,3,4]oxadiazol-2-yl]chroman-5-yl amine (250 mg). Yield: 30%.

reactant | (1-cyclobutyl piperidin-4-yl) acetic acid | 3.52 mmol, 725 mg | C1(CCC1)N1CCC(CC1)CC(=O)O | C11H19NO2
reactant | phosphoryl chloride | 4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-Amino-6-chloro-chroman-8-carboxylic acid hydrazide | 2.0 mmol, 500 mg | NC1=C2CCCOC2=C(C=C1Cl)C(=O)NN | C10H12ClN3O2
product | 6-chloro-8-[5-(1-cyclobutyl piperidin-4-ylmethyl)-[1,3,4]oxadiazol-2-yl]chroman-5-yl amine | 250 mg, Yield: 30% | ClC=1C(=C2CCCOC2=C(C1)C=1OC(=NN1)CC1CCN(CC1)C1CCC1)N | C21H27ClN4O2
